US04079181
To a solution of methyl α-[4-cyclopropylmethoxycarbonylthio-3-phthalimido-2-oxoazetidin-1-yl]-α-(2-bromo-1-cyclopropylmethoxycarbonyloxyethylidene)-acetate (500 mg) in methylene chloride (20 ml) is added aluminum chloride (510 mg) at once and the mixture is stirred at room temperature. After 1 hour, the mixture is poured into cold 3% hydrochloric acid (20 ml), and extracted with methylene chloride. The extract solution is washed with water, dried over magnesium sulfate, and evaporated to give methyl α-[4-mercapto-3-phthalimido-2-oxoazetidin-1-yl]-α-(2-bromo-1-hydroxyethylidene)-acetate (252 mg). Yield: 72.5%. IR:νmaxCHCl 3 1790, 1783, 1728, 1670, 1620 cm-1. NMR:δCDCl3 1.80d(11Hz)1H, 3.87s3H, 4.22+4.56AB2(10Hz)2H, 5.38dd (11; 5Hz)1H, 5.70d(5Hz)1H, 7.76m4H, 12.3s1H.

reactant | methyl α-[4-cyclopropylmethoxycarbonylthio-3-phthalimido-2-oxoazetidin-1-yl]-α-(2-bromo-1-cyclopropylmethoxycarbonyloxyethylidene)-acetate | 500 mg | C1(CC1)COC(=O)SC1C(C(N1C(C(=O)OC)=C(CBr)OC(=O)OCC1CC1)=O)N1C(C=2C(C1=O)=CC=CC2)=O | C26H25BrN2O10S
reactant | aluminum chloride | 510 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | methyl α-[4-mercapto-3-phthalimido-2-oxoazetidin-1-yl]-α-(2-bromo-1-hydroxyethylidene)-acetate | 252 mg, Yield: 72.5% | SC1C(C(N1C(C(=O)OC)=C(CBr)O)=O)N1C(C=2C(C1=O)=CC=CC2)=O | C16H13BrN2O6S
